US08748624B2
STEP B: tert-butyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-chlorophenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (1.4 g, 6.8 mmol) was added to a DCM solution (10 mL) of tert-butyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate (1.3 g, 3.4 mmol) and 4-bromoaniline (882 mg, 5.1 mmol), and the resulting mixture was stirred at room temperature. After 40 h the resulting mixture diluted with DCM and saturated aqueous Na2CO3 and stirred vigorously. After 5 min, the layers were separated and the aqueous phase was extracted with DCM. The combined organics were washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 6.8 mmol, 1.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert-butyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | 3.4 mmol, 1.3 g | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C)C=O | C20H21ClN2O4
reactant | 4-bromoaniline | 5.1 mmol, 882 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-chlorophenyl)picolinamido)propanoate | BrC1=CC=C(C=C1)NCC1=C(C=C(C=C1)Cl)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C26H27BrClN3O3
